US07091262B2
To a stirred mixture of 46.5 g (0.261 mol) of n-octylphosphinic acid in 250 mL 95% ethanol, 1-octene (58.6 g, 0.5218 mol) was added followed by 9.042 g (0.026 mol) of 70% benzoyl peroxide. The resulting mixture was refluxed for 8 hs, and then another 6.758 g (0.0196 mol) of benzoyl peroxide was added and the reaction continued to reflux for an extra 8 hs. A third 4.244 g of benzoyl peroxide was added (0.01305 mol) and refluxing continued for an extra 8 hs. The resulting mixture was cooled in the refrigerator, filtered, and 11.8 g of di-n-octylphosphinic acid was recovered using a rotary evaporator. The solid was washed with 100 mL of cooled 95% ethanol and the filtrate was concentrated on the rotary vacuum and replaced in the refrigerator. Another 24.9 g di-n-octylphosphinic acid was obtained on cooling to attain a total of 36.7 g (48.4% yield).

reactant | n-octylphosphinic acid | 0.261 mol, 46.5 g | C(CCCCCCC)P(O)=O | C8H19O2P
reactant | 1-octene | 0.5218 mol, 58.6 g | C=CCCCCCC | C8H16
reactant | benzoyl peroxide | 0.026 mol, 9.042 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | benzoyl peroxide | 0.0196 mol, 6.758 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | ethanol | 250 mL | C(C)O | C2H6O
product | di-n-octylphosphinic acid | 24.9 g, 48.4% yield | C(CCCCCCC)P(O)(=O)CCCCCCCC | C16H35O2P
